US07084250B2
Benzyl (S)-[1-carbamoyl-2-(pyridin-3-yl)-ethyl]carbamate
A suspension of (S)-2-benzyloxycarbonylamino-3-(pyridin-3-yl)propionic acid (2.60 kg, 8.65 mol) in tetrahydrofuran (60 l) was cooled to −9° C. At this temperature, N-ethyldiisopropylamine (1.33 kg, 10.29 mol) was added over a period of 5 min. At −9° C., isobutyl chloroformate (1.36 kg, 9.96 mol) was then added within 20 min, the internal temperature in the end increasing to −6° C. After 10 min of vigorous stirring, ammonia gas (2.1 kg, about 123 mol) was introduced at a constant temperature of (−5)–(−6)° C. into the resulting thin suspension in the course of 3 h. The reaction was initially strongly exothermic (requires initially slow introduction), later on less exothermic. Over a period of 30 min, the reaction mixture was warmed to 16° C., which gave a thick but still stirrable crystal slurry. At a jacket temperature of 30° C., the solvent was removed under reduced pressure. The white, greasy residue was suspended in ethyl acetate (125 l). A solution of sodium hydrogen carbonate (3.0 kg) in water (50 l) was added and the mixture was stirred vigorously for 30 min, after which all of the solid had dissolved. The organic phase was separated off and dried over sodium sulfate (1.0 kg), the drying agent was filtered off and the filtrate was concentrated under reduced pressure at a bath temperature of 30° C. to a volume of about 6 l. The resulting precipitate was filtered off with suction, washed with ethyl acetate (1.5 l) and dried at 30° C. under reduced pressure. Yield: 2.26 kg (7.55 mol, 87.3% of theory). The chemical purity was 99.9% (HPLC: 125×4.0 mm RP18 Purospher, 40° C., detection 210 nm); the enantiomeric purity was 100% ee (HPLC: 250×4.6 mm CSP Chiralpak AD Daicel, 40° C.; detection 248 nm; mobile phase: n-hexane/isopropanol/ethanol 84/12/4+0.1% diethylamine; tret [(S)-isomer] 14.93 min). M.p.: 152.8° C. (by DSC); MS (ESI+): m/z (%): 300 ([M+H+], 100); 1H-NMR (200 MHz, DMSO-d6): δ=2.77 (dd, J=9.5 and 7.0 Hz, 1H), 3.02 (dd, J=9.5 and 3.5 Hz, 1H), 4.19 (m, 1H), 4.96 (s, 3H), 7.00–7.40 (m, 7H), 7.40–7.60 (m, 2H), 7.60–7.76 (m, 1H), 8.36–8.53 (m, 2H); IR (KBr): ν=3306.8, 1674.9, 1537.7, 1424.0, 1271.6, 1251.3 cm−1.

reactant | (S)-2-benzyloxycarbonylamino-3-(pyridin-3-yl)propionic acid | 8.65 mol, 2.60 kg | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)O)CC=1C=NC=CC1 | C16H16N2O4
reactant | N-ethyldiisopropylamine | 10.29 mol, 1.33 kg | C(C)N(C(C)C)C(C)C | C8H19N
reactant | isobutyl chloroformate | 9.96 mol, 1.36 kg | ClC(=O)OCC(C)C | C5H9ClO2
reactant | ammonia | about 123 mol, 2.1 kg | N | H3N
solvent | tetrahydrofuran | 60 l | O1CCCC1 | C4H8O
product | Benzyl (S)-[1-carbamoyl-2-(pyridin-3-yl)-ethyl]carbamate | C(N)(=O)[C@H](CC=1C=NC=CC1)NC(OCC1=CC=CC=C1)=O | C16H17N3O3
